US06723843B2
4-Aminobenzyl β-D-glucopyranoside (110 mg, 0.40 mmol) was hydrogenated over Pd/C (10%) (50 mg) in MeOH (5 ml) at room temperature for 4 hours. The catalyst was filtered off and the filtrate was evaporated affording D-glucose in quantitative yield.

reactant | 4-Aminobenzyl β-D-glucopyranoside | 0.40 mmol, 110 mg | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)N | C13H19NO6
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | D-glucose | quantitative yield | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
